US05763700
1-(2-Fluoro-2-(methoxycarbonyl)ethenyl)-1-(4-trifluoromethoxyphenyl)cyclopropane
The method of Example 1 was repeated using zinc powder (1 g), copper (I) chloride (0.16 g), molecular sieve 4A (1.1 g), tetrahydrofuran (18 ml), 1-formyl-1-(4-trifluoromethoxyphenyl)cyclopropane (1.08 g), acetic anhydride (0.6 ml) and methyl dichlorofluoroacetate (0.86 g) to yield the title compound (0.45 g, 34%).

reactant | 1-formyl-1-(4-trifluoromethoxyphenyl)cyclopropane | 1.08 g | C(=O)C1(CC1)C1=CC=C(C=C1)OC(F)(F)F | C11H9F3O2
reactant | acetic anhydride | 0.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl dichlorofluoroacetate | 0.86 g | ClC(C(=O)OC)(F)Cl | C3H3Cl2FO2
catalyst | zinc | 1 g | [Zn] | Zn
catalyst | copper (I) chloride | 0.16 g | [Cu]Cl
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 1-(2-Fluoro-2-(methoxycarbonyl)ethenyl)-1-(4-trifluoromethoxyphenyl)cyclopropane | 0.45 g, 34% | FC(=CC1(CC1)C1=CC=C(C=C1)OC(F)(F)F)C(=O)OC | C14H12F4O3
